US09212187B2
Synthesis of N-methyl-3-{N′-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)propyl]-N′-(pyridin-4-ylmethyl)amino}-N-phenylpropionamide
Sodium ethoxide (34 mg) and 3-chloro-N-methyl-N-phenylpropionamide (148 mg) were added to a ethanol solution (5 ml) of 1-methyl-6-{3-[(pyridin-4-ylmethyl)amino]propoxy}-1H-quinolin-2-one (161 mg), and stirred at 60° C. for 8.5 hours. The reaction mixture was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate: methanol=10:0→4:1). The purified product was condensed under reduced pressure to give the title compound (5.6 mg) as a colorless oil. 1H-NMR (CDCl3) δ ppm: 1.80-1.98 (2H, m), 2.26 (2H, t, J=7.3 Hz), 2.53 (2H, t, J=6.5 Hz), 2.81 (2H, t, J=7.3 Hz), 3.24 (3H, s), 3.44 (2H, s), 3.72 (3H, s), 3.98 (2H, t, J=6.0 Hz), 6.73 (1H, d, J=9.5 Hz), 6.93 (1H, d, J=2.7 Hz), 7.00-7.19 (5H, m), 7.24-7.41 (4H, m), 7.60 (1H, d, J=9.5 Hz), 8.42 (2H, d, J=5.4 Hz).

reactant | Sodium ethoxide | 34 mg | [O-]CC.[Na+]
reactant | 3-chloro-N-methyl-N-phenylpropionamide | 148 mg | ClCCC(=O)N(C1=CC=CC=C1)C | C10H12ClNO
reactant | 1-methyl-6-{3-[(pyridin-4-ylmethyl)amino]propoxy}-1H-quinolin-2-one | 161 mg | CN1C(C=CC2=CC(=CC=C12)OCCCNCC1=CC=NC=C1)=O | C19H21N3O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-methyl-3-{N′-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)propyl]-N′-(pyridin-4-ylmethyl)amino}-N-phenylpropionamide | 5.6 mg | CN(C(CCN(CC1=CC=NC=C1)CCCOC=1C=C2C=CC(N(C2=CC1)C)=O)=O)C1=CC=CC=C1 | C29H32N4O3
